US07994205B2
1-phenyl-2-(phenylthio)-1H-imidazole-4-carbaldehyde
To a solution of [1-phenyl-2-(phenylthio)-1H-imidazol-4-yl]methanol (740 mg) in acetonitrile (50 mL) were added tetra-n-propylammonium perruthenate (185 mg), N-methylmorpholine N-oxide (1.42 g) and molecular sieves 4A powder (5 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=3:2) to give the title compound as a pale-yellow oil (yield 400 mg, 54%).

reactant | [1-phenyl-2-(phenylthio)-1H-imidazol-4-yl]methanol | 740 mg | C1(=CC=CC=C1)N1C(=NC(=C1)CO)SC1=CC=CC=C1 | C16H14N2OS
reactant | N-methylmorpholine N-oxide | 1.42 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | tetra-n-propylammonium perruthenate | 185 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1-phenyl-2-(phenylthio)-1H-imidazole-4-carbaldehyde | yield 400 mg, 54% | C1(=CC=CC=C1)N1C(=NC(=C1)C=O)SC1=CC=CC=C1 | C16H12N2OS
